US08470831B2
(E)-3-(4-Chloro-3-hydroxy-phenyl)-acrylic acid ethyl ester (1.45 g, 6.4 mmol) was dissolved in a mixture of 6N HCl (8 ml) and acetic acid (8 ml) and heated at 85° C. for 3.5 hrs. Solvents were evaporated, giving 1.23 g of (E)-3-(4-chloro-3-hydroxy-phenyl)-acrylic acid as a light yellow solid.

reactant | (E)-3-(4-Chloro-3-hydroxy-phenyl)-acrylic acid ethyl ester | 6.4 mmol, 1.45 g | C(C)OC(\C=C\C1=CC(=C(C=C1)Cl)O)=O | C11H11ClO3
solvent | HCl | 6N, 8 ml | Cl | ClH
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | (E)-3-(4-chloro-3-hydroxy-phenyl)-acrylic acid | 1.23 g | ClC1=C(C=C(C=C1)/C=C/C(=O)O)O | C9H7ClO3
